US05482971
One equivalent of 5-(3-chlorophenyl)-3-(2-(3,4-dihydroxyphenyl)-1-methylethyl)-2-oxazolidinone, prepared by the procedure of U.S. Pat. No. 5,061,727, Example 1, is combined with two equivalents of 2N sodium methoxide in methyl alcohol and the resulting slurry is stirred at room temperature for 30 minutes. One equivalent of 1,2-dibromo-3-chloropropane is added and the stirring is continued at room temperature for 24 hours. The solvent is evaporated in vacuo and the residue is dissolved in methylene chloride. The organic layer is dried, filtered through a pad of hydrous magnesium silicate and the filtrate is evaporated in vacuo to give 2-and 3- chloromethyl-6-(2-(5-(3-chloro-phenyl)-2-oxo-3-oxazolidinyl)propyl)-1,4-benzodioxane. The individual, 2- and 3- isomers, are separated by chromatography.

reactant | 5-(3-chlorophenyl)-3-(2-(3,4-dihydroxyphenyl)-1-methylethyl)-2-oxazolidinone | One equivalent | ClC=1C=C(C=CC1)C1CN(C(O1)=O)C(CC1=CC(=C(C=C1)O)O)C | C18H18ClNO4
reactant | sodium methoxide | 2N, two equivalents | C[O-].[Na+]
reactant | 1,2-dibromo-3-chloropropane | One equivalent | BrCC(CCl)Br | C3H5Br2Cl
solvent | methyl alcohol | CO | CH4O
product | 3- chloromethyl-6-(2-(5-(3-chloro-phenyl)-2-oxo-3-oxazolidinyl)propyl)-1,4-benzodioxane | ClCC1OC2=C(OC1)C=CC(=C2)CC(C)N2C(OC(C2)C2=CC(=CC=C2)Cl)=O | C21H21Cl2NO4
